US09290514B2
Step 5. 8-(3,5-Dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine
4-(Di-tert-butylphosphino)-N,N-dimethylaniline-dichloropalladium (2:1) (3.3 mg, 0.0047 mmol) and cesium fluoride (83 mg, 0.54 mmol), 8-bromo-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine (50 mg, 0.2 mmol) and (3,5-dimethylisoxazol-4-yl)boronic acid (33 mg, 0.23 mmol) were stirred in 1-butanol (0.50 mL) and water (0.12 mL). The system was placed under vacuum and back-filled with nitrogen (repeated 3×) while stirring the suspension. The mixture was further degassed by bubbling nitrogen through the solution for 10 minutes. The mixture was heated at 100° C. for 1 hour. Extractive workup with ethyl acetate gave the desired compound 40 mg, 80%. 1H NMR (300 MHz, DMSO-d6) δ 9.28 (s, 1H), 8.68 (m, 1H), 8.51 (m, 1H), 7.52 (m, 1H), 6.89 (m, 1H), 5.80 (s, 2H), 5.13 (s, 2H), 2.25 (s, 3H), 2.10 (s, 3H). LCMS calculated for C18H16FN4O2 (M+H)+: m/z=339.1. found: 339.0.

reactant | cesium fluoride | 0.54 mmol, 83 mg | [F-].[Cs+]
reactant | 8-bromo-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine | 0.2 mmol, 50 mg | BrC=1C=C(C(=C2N=C(COC21)C=2C=NC=CC2)N)F | C13H9BrFN3O
reactant | (3,5-dimethylisoxazol-4-yl)boronic acid | 0.23 mmol, 33 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
solvent | 1-butanol | 0.50 mL | C(CCC)O | C4H10O
solvent | water | 0.12 mL | O | H2O
catalyst | 4-(Di-tert-butylphosphino)-N,N-dimethylaniline dichloropalladium | 0.0047 mmol, 3.3 mg | C(C)(C)(C)P(C1=CC=C(N(C)C)C=C1)C(C)(C)C.Cl[Pd]Cl
product | 8-(3,5-Dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine | 40 mg, 80% | CC1=NOC(=C1C=1C=C(C(=C2N=C(COC21)C=2C=NC=CC2)N)F)C | C18H15FN4O2
